US07504411B2
Dimethyl sulfoxide (60 ml) solution of 4-chlorophenacylbromide (11.11 g, 65.9 mmol) and water (1.7 ml) were stirred. The solution was extracted with ethyl acetate 3 times and washed with water twice and brine and then dried over sodium sulfate. After removal of the solvent, the residue was washed with hexane-ethyl acetate and dried to give 4-chlorophenylglyoxal (4.43 g, 50%).

reactant | Dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
reactant | 4-chlorophenacylbromide | 65.9 mmol, 11.11 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
solvent | water | 1.7 ml | O | H2O
product | 4-chlorophenylglyoxal | 4.43 g, 50% | ClC1=CC=C(C=C1)C(=O)C=O | C8H5ClO2
